US07459451B2
To a stirred solution of 1-ethyl-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid (18 mg) and 4-methoxybenzyl amine (10.3 mg) in DMF (1 ml) was added O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (28.6 mg) and N,N-dimethylaminopyridine (9.2 mg). The reaction mixture was stirred at room temperature for 18 hours and at 50° for 5 hours. After cooling, the reaction mixture was diluted with water and extracted with EtOAc. The organic layer was washed with diluted HCl, water, saturated aqueous NaHCO3, water, brine, dried over anhydrous MgSO4 and concentrated in vacuo. The crystalline residue was recrystallized from EtOAc and n-hexane to give 1-ethyl-N-(4-methoxybenzyl)-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxamide (15.8 mg) as a colorless crystal.

reactant | 1-ethyl-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid | 18 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)O)C2=CC=CC=C2 | C21H18N4O2
reactant | 4-methoxybenzyl amine | 10.3 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 28.6 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-ethyl-N-(4-methoxybenzyl)-4-(5-methyl-3-pyridyl)-6-phenyl-1H-pyrazolo[3,4-b]pyridine-5-carboxamide | 15.8 mg | C(C)N1N=CC=2C1=NC(=C(C2C=2C=NC=C(C2)C)C(=O)NCC2=CC=C(C=C2)OC)C2=CC=CC=C2 | C29H27N5O2
